US07256177B2
1-Cyclopropyl-5-propyl-azepane-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide
5-propyl-azepane-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide prepared as described in example 47 (68 mg, 0.16 mmol) in MeOH (2 mL), acetic acid (0.1 mL) was added, followed by 1-[(ethyoxycyclopropyl)oxy]trimethylsilane (0.2 mL, 0.96 mmol), sodium cyanoborohydride (41 mg, 0.64 mmol), and 3 Å molecular sieves, heated to reflux for 3 h. Molecular sieves were filtered out and the reaction solvent was removed to obtain the crude material. Purification was carried by silica gel column chromatography (10% MeOH/DCM) and HPLC to provide the title compound (44 mg, 59%).

reactant | 5-propyl-azepane-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1NCCC(CC1)CCC)C | C20H38N2O5S
reactant | 1-[(ethyoxycyclopropyl)oxy]trimethylsilane | 0.96 mmol, 0.2 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 0.64 mmol, 41 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 1-Cyclopropyl-5-propyl-azepane-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 44 mg, 59% | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1N(CCC(CC1)CCC)C1CC1)C | C23H42N2O5S
